US06410556B1
6-Bromomethyl-2-methoxy-benzoic acid ethyl ester (71.1 mg, 0.260 mmol) dissolved in acetonitrile (5 ml) and diisopropylethylamine (453 μl, 2.60 mmol) was stirred at room temperature. To this mixture 2-amino-5-amino-methyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (200 mg, 0.52 mmol) dissolved in acetonitrile (5 ml) was added syringe pump (0.2 ml/min.). Once addition was complete, the reaction mixture was allowed to stir for 2 hours. The reaction mixture was concentrated in vacuo, and the residue diluted with ethylacetate (50 ml). The organic layer was washed with saturated sodium bicarbonate (2×25 ml) and brine (2×25 ml). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue (308 mg) was subjected to column chromatography using a gradient of hexane/ethyl acetate (95:5) to (50:50) and then dichloromethane/ethyl acetate (95:5) as eluents, which afforded 106 mg (75%) of 2-amino-6-(4-methoxy-benzyl)-5-(7-methoxy-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 6-Bromomethyl-2-methoxy-benzoic acid ethyl ester | 0.260 mmol, 71.1 mg | C(C)OC(C1=C(C=CC=C1CBr)OC)=O | C11H13BrO3
reactant | diisopropylethylamine | 2.60 mmol, 453 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-amino-5-amino-methyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.52 mmol, 200 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(C(C21)C)N)CC2=CC=C(C=C2)OC)N | C21H29N3O3S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-amino-6-(4-methoxy-benzyl)-5-(7-methoxy-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 106 mg, 75% | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CN2C(C1=C(C=CC=C1C2)OC)=O)CC2=CC=C(C=C2)OC)N | C30H35N3O5S
